US06903126B2
b) 6-[3-(4-Methylphenyl)amino-4-nitrophenyl]oxyhexanoic acid methyl ester
990 mg of 3-(4-methylphenyl)amino-4-nitrophenol was reacted with 6-bromohexanoic acid methyl ester according to general operating instructions 2. 1.5 g was obtained.

reactant | 3-(4-methylphenyl)amino-4-nitrophenol | 990 mg | CC1=CC=C(C=C1)NC=1C=C(C=CC1[N+](=O)[O-])O | C13H12N2O3
reactant | 6-bromohexanoic acid methyl ester | COC(CCCCCBr)=O | C7H13BrO2
product | 6-[3-(4-Methylphenyl)amino-4-nitrophenyl]oxyhexanoic acid methyl ester | COC(CCCCCOC1=CC(=C(C=C1)[N+](=O)[O-])NC1=CC=C(C=C1)C)=O | C20H24N2O5
